US03931239
A mixture of 4,5-dimethyl-6-valerylbenzofuran-2-carboxylic acid (15 g.) paraformaldehyde (3.5 g.) and dimethylamine hydrochloride (7 g.) in p-dioxane (100 ml.) is refluxed for 8 hours and cooled. The 4,5-dimethyl-6-[(2-dimethylaminomethyl)valeryl]benzofuran-2-carboxylic acid hydrochloride which separates is filtered, dried, and dissolved in acetic acid (200 ml.) containing sodium acetate (20 g.). The reaction mixture is refluxed for two hours then poured into water (250 ml.) containing hydrochloric acid (25 ml.) affording 4,5 -dimethyl-6-(2-methylenevaleryl)-benzofuran-2-carboxylic acid which melts at 172° after recrystallization from butyl chloride.

reactant | 4,5-dimethyl-6-valerylbenzofuran-2-carboxylic acid | 15 g | CC1=C(C(=CC2=C1C=C(O2)C(=O)O)C(CCCC)=O)C | C16H18O4
reactant | paraformaldehyde | 3.5 g | C=O | CH2O
reactant | dimethylamine hydrochloride | 7 g | Cl.CNC
solvent | p-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4,5 -dimethyl-6-(2-methylenevaleryl)-benzofuran-2-carboxylic acid | CC1=C(C(=CC2=C1C=C(O2)C(=O)O)C(C(CCC)=C)=O)C | C17H18O4
